US04600429
Chloromethanephosphonic acid (7.5 g, 58 mmoles) and 1.8-diaminooctane (50.0 g, 347 mmoles) were dissolved in water (130 cm3) and heated under reflux for 20 hours. The water was then removed and ethanol (250 cm3) added to the solid residue. The phosphonic acid was filtered off and dried. The crude yield was 13.3 g (90%). A sample was purified by recrystallization from water/ethanol to give N-(8-aminooctyl)-aminomethanephosphonic acid monohydrate as fine white solid having a melting point of 242° C.

reactant | Chloromethanephosphonic acid | 58 mmoles, 7.5 g | ClCP(O)(=O)O | CH4ClO3P
reactant | 1.8-diaminooctane | 347 mmoles, 50.0 g | NCCCCCCCCN | C8H20N2
solvent | water | 130 cm3 | O | H2O
product | N-(8-aminooctyl)-aminomethanephosphonic acid monohydrate | O.NCCCCCCCCNCP(O)(=O)O | InChI=1S/C9H23N2O3P.H2O/c10-7-5-3-1-2-4-6-8-11-9-15(12,13)14;/h11H,1-10H2,(H2,12,13,14);1H2
